US06569411B2
a) 2-Amino-3-(1,5,7-trimethyl-octyloxycarbonyloxy)-propionic acid
A mixture of 4.81 g 2-benzyloxycarbonylamino-3-(1,5,7-trimethyl-octyloxycarbonyloxy)-propionic acid benzyl ester, 250 ml methanol and a catalytic amount of 10% Pd/C was stirred six hours under an atmosphere of hydrogen. Filtration over Celite and evaporation under reduced pressure gave 2.69 g of colorless crystals.

reactant | 2-benzyloxycarbonylamino-3-(1,5,7-trimethyl-octyloxycarbonyloxy)-propionic acid benzyl ester | 4.81 g | C(C1=CC=CC=C1)OC(C(COC(=O)OC(CCCC(CC(C)C)C)C)NC(=O)OCC1=CC=CC=C1)=O | C30H41NO7
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 2-Amino-3-(1,5,7-trimethyl-octyloxycarbonyloxy)-propionic acid | 2.69 g | NC(C(=O)O)COC(=O)OC(CCCC(CC(C)C)C)C | C15H29NO5
